US07851072B2
Step 3—Synthesis of 1-phenyl-4-methylisoquinoline
To a suspension of activated magnesium dioxide (270 g, 0.132 mol) in 550 mL of benzene was added 1-phenyl-4-methyl-3,4-dihydroisoquinoline (29.0 g, 0.131 mol) with stirring. The reaction mixture was heated at reflux for 16 hours. The magnesium dioxide was removed by vacuum filtration and washed with methylene chloride. Evaporation of the solvent yielded 12.2 g (42%) of pure yellow crystals of 1-phenyl-4-methylisoquinoline.

reactant | magnesium dioxide | 0.132 mol, 270 g | [O-][O-].[Mg+2]
reactant | 1-phenyl-4-methyl-3,4-dihydroisoquinoline | 0.131 mol, 29.0 g | C1(=CC=CC=C1)C1=NCC(C2=CC=CC=C12)C | C16H15N
solvent | benzene | 550 mL | C1=CC=CC=C1 | C6H6
product | 1-phenyl-4-methylisoquinoline | 12.2 g, 42% | C1(=CC=CC=C1)C1=NC=C(C2=CC=CC=C12)C | C16H13N
